* This is the potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT potentiometer A B C
.param w={limit(wiper,1e-15,1-1e-15)}
R0 A C {Rtot*(1-w)}
R1 C B {Rtot*(w)}
.ENDS
